US07078570B2
Synthesis of 2,2,6-trimethyl-6-(3-methyl-but-2-enyl)-cyclohex-3-enone
2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone (5.00 g, 26 mmol) was added to a solution of LDA (prepared from diisopropylamine (3.15 g, 31.2 mmol) and n-BuLi (1.6M in hexane, 19.5 ml, 31.2 mmol)) in THF (50 ml) at −78° C. The mixture was stirred for 1 h at −78° C. Methyl iodide (5.54 g, 39 mmol) was added and the solution was allowed to warm to room temperature over night. The mixture was diluted with MTBE and washed with portions of H2O and brine, dried (MgSO4) and concentrated in vacuo to yield 7 g of a slightly yellow oil which was distilled (bp.42° C./0.005 mbar) to give 4.5 g (84%) of an olfactorily clean oil. 1H-NMR (400 MHz, CDCl3): 5.72-5.68 (m, 1H), 5.63-5.59 (m, 1H), 5.06-4.99 (m, 1H), 2.36-2.08 (m, 4H), 1.70 (s, 3H), 1.59 (s, 3H), 1.15 (s, 3H), 1.12 (s, 3H), 1.07 (s, 3H) ppm. GC/MS (EI): 206 (M+, 15), 191 (8), 137 (19), 123 (25), 109 (100), 96 (34), 91 (9), 81 (28), 67 (24), 41 (33). IR (ATR): 3023s, 2966s, 2926m, 1703vs, 1456s, 1376m, 1203w, 1033s, 713s cm−1.

reactant | 2,6-Dimethyl-6-(3-methyl-but-2-enyl)-cyclohex-2-enone | 26 mmol, 5.00 g | CC=1C(C(CCC1)(CC=C(C)C)C)=O | C13H20O
reactant | LDA | 31.2 mmol, 1.6M, 19.5 ml, 3.15 g | [Li+].CC(C)[N-]C(C)C
reactant | Methyl iodide | 39 mmol, 5.54 g | CI | CH3I
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | MTBE | CC(C)(C)OC | C5H12O
product | 2,2,6-trimethyl-6-(3-methyl-but-2-enyl)-cyclohex-3-enone | CC1(C(C(CC=C1)(CC=C(C)C)C)=O)C | C14H22O
